data/oMe_Silver.jsonl
{"reaction_id": "NR-313_1-OC_2-O_3-C(C)C_4-C#N_5-F","level": "easy","name": "Ullmann Coupling","reactants_smiles": ["c1(OC)c(O)c(C(C)C)c(C#N)c(F)c1I"],"products_smiles": ["c1(OC)c(O)c(C(C)C)c(C#N)c(F)c1c2c(OC)c(O)c(C(C)C)c(C#N)c2(F)"],"conditions": "Cu","mechanism_step_nums": 4,"mechanism": [{"step": 1,"type": "addition","subtype": "oxidative_addition","intermediate_smiles": "c1(OC)c(O)c(C(C)C)c(C#N)c(F)c1[Cu]I","step_weight": 0,"rationale": "Cu(0) inserts into the aryl–iodine bond via oxidative addition because iodine is a good leaving group and the aryl–Cu bond is stabilized by π-backbonding from the aromatic ring."},{"step": 2,"type": "electron_transfer","subtype": "single_electron_transfer","intermediate_smiles": "c1(OC)c(O)c(C(C)C)c(C#N)c(F)c1[Cu]","step_weight": 0,"rationale": "Single-electron transfer from Cu to the aryl fragment generates a reactive aryl radical, favored by the low ionization potential of Cu and the stability of the aryl radical through resonance."},{"step": 3,"type": "addition","subtype": "oxidative_addition","intermediate_smiles": "c1(OC)c(O)c(C(C)C)c(C#N)c(F)c1[Cu](I)c2c(OC)c(O)c(C(C)C)c(C#N)c2(F)","step_weight": 0,"rationale": "A second oxidative addition occurs with another aryl iodide, driven by the high reactivity of the aryl radical and the good leaving ability of iodide, forming a bis-aryl copper(III) species."},{"step": 4,"type": "elimination","subtype": "reductive_elimination","intermediate_smiles": "c1(OC)c(O)c(C(C)C)c(C#N)c(F)c1c2c(OC)c(O)c(C(C)C)c(C#N)c2(F)","step_weight": 0,"rationale": "Reductive elimination from the Cu(III) complex forms the biaryl product, favored by the thermodynamic stability of the C–C bond and the regeneration of the lower oxidation state Cu catalyst."}],"description": "In the Ullmann coupling, copper mediates the formation of a biaryl bond from aryl iodides. Copper undergoes oxidative addition to the aryl halide, facilitates electron transfer, and couples two aryl groups via a second oxidative addition followed by reductive elimination, forming the C–C bond."}
{"reaction_id": "NR-044_1-CC(C)C_2-c1ccc(OC)cc1_3-Cc1ccccc1_4-C#CC_5-c1ccccc1C_6-c1ccccc1C","name": "Cope Elimination","level": "easy","reactants_smiles": ["[CH](CC(C)C)(c1ccc(OC)cc1)C(Cc1ccccc1)(C#CC)[N+](c1ccccc1C)(c1ccccc1C)[O-]"],"products_smiles": ["C(CC(C)C)(c1ccc(OC)cc1)=C(Cc1ccccc1)(C#CC)","O[N](c1ccccc1C)(c1ccccc1C)"],"conditions": "$heating$","mechnism_text_description": "The Cope elimination is a thermal intramolecular syn-stereospecific elimination of amine oxides yielding alkenes and N,N-dialkylhydroxylamines. The mechanism is concerted, involving a five-membered cyclic transition state where the oxygen of the amine oxide abstracts a $\\beta$-hydrogen. This proton abstraction, C=C double bond formation, and C-N bond cleavage (releasing N,N-dialkylhydroxylamine as the effective leaving group) occur simultaneously in a single step. While it's an elimination reaction, its concerted cyclic nature gives it pericyclic character, often compared to a [1,5]-sigmatropic hydrogen shift or an ene-like reaction.","mechanism_step_nums": 1,"mechanism": [{"step": 1,"type": "elimination","subtype": "leaving_group_elimination","intermediate_smiles": "C(CC(C)C)(c1ccc(OC)cc1)=C(Cc1ccccc1)(C#CC).O[N](c1ccccc1C)(c1ccccc1C)","step_weight": 0,"rationale": "Thermal energy promotes a concerted syn-elimination where the amine oxide oxygen, being nucleophilic and well-positioned, abstracts the β-hydrogen. Simultaneous C–N bond cleavage is favored by the stability of the N,N-dialkylhydroxylamine leaving group and the relief of steric strain."}],"description": "Upon heating, the amine oxide undergoes a concerted syn-elimination via a five-membered cyclic transition state. The oxygen abstracts a β-hydrogen while the C–N bond breaks and a C=C double bond forms, yielding the alkene and N,N-dialkylhydroxylamine."}
